US07612088B2
a) 5-(6,7-Dihydro-4H-benzothiazol-5-ylidene-5,6,7,8-tetrahydroquinazoline
1.06 g of benzenesulphonyl chloride is added to a solution of 0.66 g of 5-(5-hydroxy-5,6,7,8-tetrahydroquinazoline-5-yl)-4,5,6,7-tetrahydrobenzothiazole-5-carboxylic acid and 20 ml of pyridine at 0° C. After 2 hours at 0° C., the reaction mixture is poured into ice-water—the resulting solid is filtered off, dried, dissolved in 1 ml of 2,4,6-trimethylpyridine and then heated to 140° C. After 90 minutes, the reaction mixture is cooled to room temperature, mixed with hot water, stirred for 10 minutes and then the water is decanted off. This “water-treatment process” is repeated twice more. The solid is then dried and purified by flash chromatography (SiO2 60F). The title compound is identified on the basis of e Rf.

reactant | benzenesulphonyl chloride | 1.06 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 5-(5-hydroxy-5,6,7,8-tetrahydroquinazoline-5-yl)-4,5,6,7-tetrahydrobenzothiazole-5-carboxylic acid | 0.66 g | OC1(C=2C=NC=NC2CCC1)C1(CCC2=C(N=CS2)C1)C(=O)O | C16H17N3O3S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 6,7-Dihydro-4H-benzothiazol-5-ylidene-5,6,7,8-tetrahydroquinazoline | S1C=NC2=C1CCC(C2)=C2C=1C=NC=NC1CCC2 | C15H15N3S
